US05545636
6,7,8,9-tetrahydropyrido[1,2-a]indole-8,8-dicarboxylic acid diethyl ester
To a -78° C. THF (12 mL) solution of lithium diisopropylamide (generated in situ from diisopropylamine (3.8 mL) and 15% n-butyl lithium in hexane (17 mL) at 0° C.) was added dropwise a THF solution of 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxylic acid ethyl ester. After 30 minutes, the temperature was brought to 0° C. After 1 hour, ethyl chloroformate (2.6 mL) was added over one hour. The reaction was allowed to come to room temperature overnight. The reaction was quenched with saturated NH4Cl and extracted t-butyl methyl ether (3×). The extract was washed with water, dried, filtered, and concentrated to give a residue. The residue was purified by flash chromatography eluting with 15% ethyl acetate/hexane to give the title compound 1.29 g (33% yield) as off white crystals (M. Pt. 69° C.).

reactant | lithium diisopropylamide | 3.8 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxylic acid ethyl ester | C(C)OC(=O)C1CC=2N(C3=CC=CC=C3C2)CC1 | C15H17NO2
reactant | ethyl chloroformate | 2.6 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8,8-dicarboxylic acid diethyl ester | 1.29 g, 33% yield | C(C)OC(=O)C1(CC=2N(C3=CC=CC=C3C2)CC1)C(=O)OCC | C18H21NO4
